US07763657B2
(R)—N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-ethynylphenyl)methanesulfonamide
(R)—N-(4-{1-[3-(4-tert-Butyl-phenyl)ureido]ethyl}-2-trimethylsilanylethynyl-phenyl)methanesulfonamide (11 mg, 0.023 mmol) was dissolved in THF. The reaction mixture was cooled down to 0° C. 1.0 M solution of tetrabutylammoniumfluoride in THF (0.068 ml, 0.068 mmol, 3 eq.) was added into the reaction mixture. The reaction mixture was stirred for 1.5 hrs. The reaction mixture was concentrated in vacuo and purified with column chromatography (n-Hx:EA=1:1) to yield title compound (7.0 mg, 74%) as a solid.

reactant | (R)—N-(4-{1-[3-(4-tert-Butyl-phenyl)ureido]ethyl}-2-trimethylsilanylethynyl-phenyl)methanesulfonamide | 0.023 mmol, 11 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#C[Si](C)(C)C)=O | C25H35N3O3SSi
reactant | tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.068 mmol, 0.068 ml, 3 eq. | C1CCOC1 | C4H8O
product | (R)—N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-ethynylphenyl)methanesulfonamide | 7.0 mg, 74% | C(C)(C)(C)C1=CC=C(C=C1)NC(N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#C)=O | C22H27N3O3S
